US06372777B1
Preparation of 2-Methyl-5-phenyl-1-pyridin-3-yl-1H-pyrrole-3-carboxylic acid ethyl ester
3-Aminopyridine (5 mmol, 0.5 g), 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester (5 mmol, 1.2 g) and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. The resulting oil was resuspended in ether, then washed with water and brine. The organic layer was dried over MgSO4, then the solids were separated and the solvents were removed under vacuum. The named product was purified over silica gel and analyzed by 1H-NMR (CDCl3, ppm): 1.35 t (3H), 2.40 s (3H), 4.3 q (2H), 6.78 s (1H), 7.03-7.39 m (7H), 8.4 sd (1H), and about 8.6 dd (1H).

reactant | 3-Aminopyridine | 5 mmol, 0.5 g | NC=1C=NC=CC1 | C5H6N2
reactant | 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester | 5 mmol, 1.2 g | C(C)OC(C(C(C)=O)CC(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 2-Methyl-5-phenyl-1-pyridin-3-yl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=CC=C1)C=1C=NC=CC1)C | C19H18N2O2
